US07470709B2
Step 1: 2-(methylamino)methyl-4-benzyl morpholine
Commercially available 2-chloromethyl-4-benzyl morpholine was dissolved in an 8 M solution of NH2Me in EtOH and heated in a glass pressure vessel at 110° C. overnight. The solvent was removed in vacuo, and the compound was used in the next step without further purification. LC/MS m/z: 221.2 (MH+), Rt 0.55 minutes.

reactant | 2-chloromethyl-4-benzyl morpholine | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
reactant | NH2Me | NC | CH5N
solvent | EtOH | CCO | C2H6O
product | 2-(methylamino)methyl-4-benzyl morpholine | CNCC1CN(CCO1)CC1=CC=CC=C1 | C13H20N2O
